US07268230B2
Using an analogous procedure to that described for the preparation of Example 22, 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-[(2S)-pyrrolidin-2-ylmethoxy]quinazoline (150 mg, 0.36 mmol), (prepared as described for the starting material in Example 12), was reacted with methanesulphonyl chloride (33 μl, 0.43 mmol). The product was purified by column chromatography, eluting with methanol/methylene chloride (2/98) to give 4[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-{[(2S)-1-(methylsulfonyl)pyrrolidin-2-yl]methoxy}quinazoline (105 mg, 59%).

reactant | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-[(2S)-pyrrolidin-2-ylmethoxy]quinazoline | 0.36 mmol, 150 mg | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@H]1NCCC1)C | C23H23FN4O3
reactant | methanesulphonyl chloride | 0.43 mmol, 33 μl | CS(=O)(=O)Cl | CH3ClO2S
product | 4[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-{[(2S)-1-(methylsulfonyl)pyrrolidin-2-yl]methoxy}quinazoline | 105 mg, 59% | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@H]1N(CCC1)S(=O)(=O)C)C | C24H25FN4O5S
